US08044067B2
A solution of α-acetoxy-3,4,5-trimethoxyphenyl-acetic acid (5.0 g) in dichloromethane (40 ml) was reacted with 1,1′-carbonyldiimidazole (2.92 g) at room temperature for 30 minutes. The solution was refluxed for 30 minutes, after which N-methyl-3,4-ethylenedioxybenzylamine (3.26 g) dissolved in dichloromethane (10 ml) was added. The mixture was stirred at room temperature for 2 hours, after which it was washed with aqueous hydrochloric acid (20 ml, 1M) followed by aqueous sodium hydrogen carbonate (20 ml, 0.5 M). The organic phase was dried and concentrated to dryness, leaving crude 2-(3,4,5-trimethoxyphenyl)-2-acetoxy-N-methyl-N-3,4-ethylenedioxybenzylacetamide (7.27 g).

reactant | α-acetoxy-3,4,5-trimethoxyphenyl-acetic acid | 5.0 g | C(C)(=O)OC(C(=O)O)C1=CC(=C(C(=C1)OC)OC)OC | C13H16O7
reactant | 1,1′-carbonyldiimidazole | 2.92 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N-methyl-3,4-ethylenedioxybenzylamine | 3.26 g | CNCC1=CC2=C(C=C1)OCCO2 | C10H13NO2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2-(3,4,5-trimethoxyphenyl)-2-acetoxy-N-methyl-N-3,4-ethylenedioxybenzylacetamide | 7.27 g | COC=1C=C(C=C(C1OC)OC)C1(C(CCC(=O)NC)C=CC2=C1OCCO2)OC(C)=O | C23H29NO8
